* source SUPA-PHONO-MM-MC
.EXTERNAL INPUT +15V
.EXTERNAL INPUT -15V
V_V1         +15V 0 15Vdc
V_V2         -15V 0 -15Vdc
V_V3         N15387 0  
+SIN 0V 0.5V 1kHz 0 0 0
C_C1         0 N15387  4.7p  TC=0,0 
R_R1         0 N15387  56k TC=0,0 
Q_Q1         N14688 N15387 N14664 BC850C 
Q_Q2         N14692 N15491 N14664 BC850C 
R_R2         -15V N14664  10k TC=0,0 
R_R3         N14688 +15V  4.7k TC=0,0 
R_R4         N14692 N15021  1.8k TC=0,0 
Q_Q3         N15243 N15491 N14862 BC860C 
Q_Q5         N15224 N15387 N14862 BC860C 
R_R5         N14862 +15V  10k TC=0,0 
R_R6         -15V N15224  4.7k TC=0,0 
R_R7         N14955 N15243  1.8k TC=0,0 
Q_Q6         N15597 N14688 N15021 BC860C 
Q_Q7         N15597 N15224 N14955 BC850C 
R_R8         -15V N14955  150 TC=0,0 
R_R9         N15021 +15V  150 TC=0,0 
R_R10         N15491 N15597  56k TC=0,0 
R_R11         N15627 N15491  56k TC=0,0 
C_C2         0 N15627  100uF  TC=0,0 
C_C3         N15597 N15795  100nF  TC=0,0 
R_R12         0 N15795  47k TC=0,0 
